US06706725B1
e) 5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)-phenoxymethyl]thiophene-3-carbaldehyde
In a manner similar to that of Example 9(g), by reaction of 34 g (61 mmol) of 5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-bromothiophene with 27 mL (67 mmol) of 2.5 M butyllithium and 5.2 mL (67 mmol) of dimethylformamide, the crude product obtained (33.8 g; Y=99%) is in the form of a brown oil.

reactant | 5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-bromothiophene | 61 mmol, 34 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)Br)C=CC1CO[Si](C)(C)C(C)(C)C | C25H41BrO3SSi2
reactant | butyllithium | 67 mmol, 2.5 M, 27 mL | C(CCC)[Li]
reactant | dimethylformamide | 67 mmol, 5.2 mL | CN(C=O)C | C3H7NO
product | 5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)-phenoxymethyl]thiophene-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)C=O)C=CC1CO[Si](C)(C)C(C)(C)C | C26H42O4SSi2
